US05200422
b) N-(2-methoxy-4-phenylphenyl)-2-nitroaniline
N-(2-methoxyphenyl)-2-nitro-4-trifluoromethyl-5-chloroaniline, M.p. 142°-145° C., by reaction between 2-methoxyaniline and 2-chloro-4-chloro-5-trifluoromethyl-nitrobenzene.

reactant | N-(2-methoxyphenyl)-2-nitro-4-trifluoromethyl-5-chloroaniline | COC1=C(C=CC=C1)NC1=C(C=C(C(=C1)Cl)C(F)(F)F)[N+](=O)[O-] | C14H10ClF3N2O3
reactant | 2-methoxyaniline | COC1=C(N)C=CC=C1 | C7H9NO
reactant | 2-chloro-4-chloro-5-trifluoromethyl-nitrobenzene | ClC1=C(C=C(C(=C1)Cl)C(F)(F)F)[N+](=O)[O-] | C7H2Cl2F3NO2
product | N-(2-methoxy-4-phenylphenyl)-2-nitroaniline | COC1=C(C=CC(=C1)C1=CC=CC=C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C19H16N2O3
